US04645765
11-Acetyl-4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (55 mg) was dissolved in a mixture of acetone (2 ml) and methyl iodide (2 ml). To the solution was added potassium carbonate (150 mg), and the mixture was stirred at 45° C. overnight under nitrogen atmosphere. The mixture was cooled to room temperature and filtered, and the filter cake was washed with a mixture of chloroform and acetone (1:1, v/v, 10 ml). The filtrate and the washings were combined and evaporated in vacuo. The residue was subjected to column chromatography on silica gel, and elution was carried out with a mixture of chloroform and acetone (4:1, v/v). The desired fractions were collected and evaporated to dryness. The residue was subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform and methanol (1:1, v/v) to afford 11-acetyl-4-formyl-9-hydroxy-6-methoxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (11 mg).

reactant | 11-Acetyl-4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 55 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3N(C3C1(O2)O)C(C)=O)C=O)O)=O | C16H17N3O7
reactant | potassium carbonate | 150 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | methyl iodide | 2 ml | CI | CH3I
product | 11-acetyl-4-formyl-9-hydroxy-6-methoxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 11 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3N(C3C1(O2)O)C(C)=O)C=O)OC)=O | C17H19N3O7
